US05093364
A solution of aniline (1.77 g) in acetic acid (50 ml) was added to a solution of 7-fluoro-1H-3,1-benzoxazine-2,4-dione (1 g) in acetic acid (100 ml) and the mixture heated at 100° for 20 minutes. It was then poured into water and the precipitate collected, dried and recrystallised from toluene to give N1 -phenyl-4-fluoroanthranilamide, m.p. 120°-122°. (Compound 4).

reactant | aniline | 1.77 g | NC1=CC=CC=C1 | C6H7N
reactant | 7-fluoro-1H-3,1-benzoxazine-2,4-dione | 1 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N1 -phenyl-4-fluoroanthranilamide | C1(=CC=CC=C1)NC(C=1C(N)=CC(=CC1)F)=O | C13H11FN2O
